US09376441B2
Step-1 tert-butyl 4-(4-(1-cyclopropyl-7-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-1H-benzo[d]imidazol-5-yl)-2-fluorophenyl)piperazine-1-carboxylate
Following the procedure described for intermediate from Step-3 in Example 3.100, starting from combined (R)-4-((R)-1-((5-bromo-1-cyclopropyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one (250 mg, 0.69 mmol) and tert-butyl 4-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine-1-carboxylate (348.59 mg, 0.86 mmol) (B11), 250 mg tert-butyl 4-(4-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)-2-fluorophenyl)piperazine-1-carboxylate was synthesized.

reactant | (R)-4-((R)-1-((5-bromo-1-cyclopropyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | 0.69 mmol, 250 mg | BrC1=CC2=C(N(C=N2)C2CC2)C(=C1)O[C@H](C)[C@@H]1CC(NC1)=O | C16H18BrN3O2
reactant | tert-butyl 4-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine-1-carboxylate | 0.86 mmol, 348.59 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N1CCN(CC1)C(=O)OC(C)(C)C | C21H32BFN2O4
reactant | tert-butyl 4-(4-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)-2-fluorophenyl)piperazine-1-carboxylate | 250 mg | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC(=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)F)O[C@H](C)[C@H]2CNC(C2)=O | C30H37FN6O4
product | tert-butyl 4-(4-(1-cyclopropyl-7-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-1H-benzo[d]imidazol-5-yl)-2-fluorophenyl)piperazine-1-carboxylate | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=CC(=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)F)O[C@H](C)[C@H]2CNC(C2)=O | C31H38FN5O4
